US07615568B2
D. 3-[2-[1-(t-Butoxycarbonyl)piperidin-4-ylmethoxy]-4-methylthiobenzoylamino]-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide
To a 0° C. mixture of N-(5-chloropyridin-2-yl)-3-[2-hydroxy-4-methylthiobenzoylamino]pyridine-2-carboxamide (750 mg, 1.8 mmol), 1-t-butoxycarbonyl-4-hydroxymethylpiperidine (387 mg, 1.8 mmol), triphenylphosphine (568 mg, 2.26 mmol) and DMF (9 mL) was added DEAD (0.36 mL, 2.26 mmol), and the mixture was stirred for 18 h. The reaction mixture was concentrated and chromatographed (CH2Cl2; 10% EtOAc/CH2Cl2) to give the desired product as a white solid (950 mg, 86%).

reactant | N-(5-chloropyridin-2-yl)-3-[2-hydroxy-4-methylthiobenzoylamino]pyridine-2-carboxamide | 1.8 mmol, 750 mg | ClC=1C=CC(=NC1)NC(=O)C1=NC=CC=C1NC(C1=C(C=C(C=C1)C)O)=S | C19H15ClN4O2S
reactant | 1-t-butoxycarbonyl-4-hydroxymethylpiperidine | 1.8 mmol, 387 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CO | C11H21NO3
reactant | triphenylphosphine | 2.26 mmol, 568 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 2.26 mmol, 0.36 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
product | 3-[2-[1-(t-Butoxycarbonyl)piperidin-4-ylmethoxy]-4-methylthiobenzoylamino]-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide | 950 mg, 86% | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C(=S)NC=2C(=NC=CC2)C(=O)NC2=NC=C(C=C2)Cl)C=CC(=C1)C | C30H34ClN5O4S
